US04122183
2-(2-Ethylbutyramido)-4-methyloxazole
A stirred solution of 2-amino-4-methyloxazole prepared as described in Example 19 (8.8 g., 0.089 mol) and 2-ethylbutyric anhydride (19.0 g., 0.089 mol) in toluene (50 ml) was heated under reflux for 2 hours. The cooled solution was washed with sodium carbonate solution, then with sodium chloride solution, dried over sodium sulphate and evaporated. The solid residue was crystallised from ethyl acetate-petroleum spirit giving white crystals. 10.1 g. (58%) m.p. 106° C.

reactant | 2-amino-4-methyloxazole | NC=1OC=C(N1)C | C4H6N2O
reactant | 2-ethylbutyric anhydride | 0.089 mol, 19.0 g | C(C)C(C(=O)OC(C(CC)CC)=O)CC | C12H22O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Ethylbutyramido)-4-methyloxazole | C(C)C(C(=O)NC=1OC=C(N1)C)CC | C10H16N2O2
